US07399767B2
2-[4-(2-Diethylamino-ethoxy)-phenyl]-3-(2,4-dimethoxy-pyrimidin-5-yl)-4-methyl-2H-chromen-7-ol
The title product was prepared as a white solid according to the procedure described in Example 34 using 5-[2-[4-(2-Chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2,4-dimethoxy-pyrimidine and diethyl amine as the starting material.

reactant | 5-[2-[4-(2-Chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2,4-dimethoxy-pyrimidine | ClCCOC1=CC=C(C=C1)C1OC2=CC(=CC=C2C(=C1C=1C(=NC(=NC1)OC)OC)C)OCOCC[Si](C)(C)C | C30H37ClN2O6Si
reactant | diethyl amine | C(C)NCC | C4H11N
product | 2-[4-(2-Diethylamino-ethoxy)-phenyl]-3-(2,4-dimethoxy-pyrimidin-5-yl)-4-methyl-2H-chromen-7-ol | C(C)N(CCOC1=CC=C(C=C1)C1OC2=CC(=CC=C2C(=C1C=1C(=NC(=NC1)OC)OC)C)O)CC | C28H33N3O5
